US06300363B1
Step 1. 2-(Ethoxycarbonylamino)-5-nitrobenzonitrile
The title compound was prepared according to the procedure described in step 1 of Example 1 (Method A) from 2-amino-5-nitrobenzonitrile. tlc: Rf=0.4 (33% ethyl acetate in hexanes)

reactant | 2-amino-5-nitrobenzonitrile | NC1=C(C#N)C=C(C=C1)[N+](=O)[O-] | C7H5N3O2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(Ethoxycarbonylamino)-5-nitrobenzonitrile | C(C)OC(=O)NC1=C(C#N)C=C(C=C1)[N+](=O)[O-] | C10H9N3O4
